US05208228
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-amino-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-azido-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (22 mg) in 10% aqueous toluene (0.5 ml) was added triphenylphosphine (10.7 mg) and the mixture heated to 70° C. with stirring. After 18 hours, the stir bar was removed and the reaction cooled to room temperature. The mixture was concentrated to 10% volume in vacuo and purified by preparative TLC on silica gel (2% ammonium hydroxide, 5% methanol in methylene chloride) to give the title compound (5.5 mg).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-azido-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 22 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)N=[N+]=[N-])OC(C)C)C)C)O)=O | C45H72N4O11
reactant | triphenylphosphine | 10.7 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-amino-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 5.5 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)N)OC(C)C)C)C)O)=O | C45H74N2O11
